US07417172B2
In step 1, pentafluorophenylchloride and trifluoroacetic anhydride were reacted to obtain octafluoroacetophenone. In steps 2 and 3, the octafluoroacetophenone was reacted with chloroethanol in hexane at −10˜−5° C. The reaction product was reacted with dry K2CO3 at 20° C. for 6 hours to obtain 2-trifluoromethyl-2-pentafluorophenyl-1,3-dioxalane in a yield of 80%. In step 4, the fluoro-containing dioxalane was chlorinated with carbon tetrachloride at 50° C. to obtain 2-trifluoromethyl-2-pentafluorophenyl-4,4,5,5,-tetrachloro-1,3-dioxalane (yield: 95%) as a colorless crystal. The product was measured to have a melting point of 41˜42° C. and a boiling point of 140˜141° C./40 mmHg. In step 5, the dioxalane obtained in step 4 was chlorinated with SbF3/SbCl5 at 120° C. for 2.5 hours to obtain a reaction mixture containing fluorinated dioxalane. The reaction mixture was subjected to rectification to give 2-trifluoromethyl-2-pentafluorophenyl-4,5-dichloro-4,5-difluoro-1,3-dioxalane in a yield of 70%. The analytical data of the NMR spectrum of the product are as follows:

reactant | pentafluorophenylchloride | FC1=C(C(=C(C(=C1Cl)F)F)F)F | C6ClF5
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | octafluoroacetophenone | FC1=C(C(=C(C(=C1C(C(F)(F)F)=O)F)F)F)F | C8F8O
